US07893099B2
Step 3: (1R,2R,4R)-4-hydroxy-2-(morpholine-4-carbonyl)-cyclopentanecarboxylic acid ethyl ester
A mixture of 7.77 g of (1R,2R)-2-(morpholine-4-carbonyl)-4-oxo-cyclopentanecarboxylic acid ethyl ester in 148 ml of aqueous buffer (10 mM 2-(N-morpholino)ethanesulfonic acid; 0.5 M D-glucose [2.7 equ.]; 2 mM magnesium chloride) was adjusted to pH 6.5. Under stirring the reduction was started by the addition of the cofactor NADP (779 mg [0.03 equ.]), the cofactor regeneration enzyme-glucose dehydrogenase (77 mg GDH 102 [Codexis]) and the reductase (387 mg KRED-NADP-131 [Codexis]). During the 21 h reaction time the pH was maintained at pH 6.5 by the addition of 31.9 ml 1M NaOH. At this time point the reaction mixture was blended with the use-test previously carried out, in which 1.5 g (1R,2R)-2-(morpholine-4-carbonyl)-4-oxo-cyclopentanecarboxylic acid ethyl ester were reduced under exactly the described conditions. Under stirring the mixture was adjusted to pH 2.8, saturated with 43.6 g sodium chloride and stirred for at least 10 min. after the addition of 17 g filter aid—Dicalite—and 300 ml ethyl acetate. Subsequently the filter aid was removed and the filtrate was adjusted to pH 7.0 prior to extraction. The aqueous phase was extracted twice with 300 ml ethyl acetate. Treatment of the combined organic phases with sodium sulfate, evaporation and drying over night under a high vacuum yielded in 8.73 g of (1R,2R,4R)-4-hydroxy-2-(morpholine-4-carbonyl)-cyclopentanecarboxylic acid ethyl ester as a pale yellow oil. MS: 272.1 (M+H)+; chiral GC: ee 95.2% [BGB-176, 30 m; H2; 2° C./min, 150° C. to 220° C.].

reactant | (1R,2R)-2-(morpholine-4-carbonyl)-4-oxo-cyclopentanecarboxylic acid ethyl ester | 7.77 g | C(C)OC(=O)[C@H]1[C@@H](CC(C1)=O)C(=O)N1CCOCC1 | C13H19NO5
reactant | 2-(N-morpholino)ethanesulfonic acid | 10 mM | C1COCCN1CCS(=O)(=O)O | C6H13NO4S
reactant | D-glucose | 0.5 M | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | magnesium chloride | 2 mM | [Cl-].[Mg+2].[Cl-]
reactant | NADP | 779 mg | C1=CC(=C[N+](=C1)[C@H]2[C@@H]([C@@H]([C@H](O2)COP(=O)(O)OP(=O)(O)OC[C@@H]3[C@H]([C@H]([C@@H](O3)N4C=NC5=C4N=CN=C5N)OP(=O)(O)O)O)O)O)C(=O)N
reactant | NaOH | 1M, 31.9 ml | [OH-].[Na+]
reactant | (1R,2R)-2-(morpholine-4-carbonyl)-4-oxo-cyclopentanecarboxylic acid ethyl ester | 1.5 g | C(C)OC(=O)[C@H]1[C@@H](CC(C1)=O)C(=O)N1CCOCC1 | C13H19NO5
reactant | sodium chloride | 43.6 g | [Cl-].[Na+]
product | (1R,2R,4R)-4-hydroxy-2-(morpholine-4-carbonyl)-cyclopentanecarboxylic acid ethyl ester | C(C)OC(=O)[C@H]1[C@@H](C[C@H](C1)O)C(=O)N1CCOCC1 | C13H21NO5
